US04256761
To a solution of N-(3-methylthiopropyl)glycine t-butyl ester (36.4 g, 0.166 mol) and triethylamine (20.2 g, 0.199 mol) in 300 ml of dioxane was added dropwise 3-acetylthio -2-methylpropanoyl chloride (30.0 g, 0.166 mol). After stirring at room temperature for 16 hours the mixture was filtered and concentrated to yield 52.9 g. Purification by medium pressure liquid chromatography eluting with 20% ethyl acetate in hexane gave 18.0 g (30%) of N-(3-acetylthio-2-methylpropanoyl)-N-(3-methylthiopropyl)glycine t-butyl ester as a colorless oil. Rf =0.19 (20% ethyl acetate in hexane).

reactant | N-(3-methylthiopropyl)glycine t-butyl ester | 0.166 mol, 36.4 g | C(C)(C)(C)OC(CNCCCSC)=O | C10H21NO2S
reactant | triethylamine | 0.199 mol, 20.2 g | C(C)N(CC)CC | C6H15N
reactant | 3-acetylthio -2-methylpropanoyl chloride | 0.166 mol, 30.0 g | C(C)(=O)SCC(C(=O)Cl)C | C6H9ClO2S
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | N-(3-acetylthio-2-methylpropanoyl)-N-(3-methylthiopropyl)glycine t-butyl ester | 18.0 g, 30% | C(C)(C)(C)OC(CN(CCCSC)C(C(CSC(C)=O)C)=O)=O | C16H29NO4S2
